US07220727B2
N-[(S)-4-(Benzyloxycarbonylamino)-2-hydroxybutanoyloxy]succinimide (28)
A mixture of the N-Cbz protected (S)-4-amino-2-hydroxybutanoic acid (76 mg, 0.300 mmol, prepared from treatment of 1.0 eq. of the acid with 1.2 eq. of benzyl chloroformate in the presence of 2.1 equiv. of sodium carbonate at 0–5° C. overnight, [α]D25=−61°), N-hydroxysuccinimide (38 mg, 0.318 mmol), and DCC (63 mg, 0.300 mmol) in anhydrous THF (3.5 mL) was stirred at room temperature under an atmosphere of argon for 2 h. This solution was directly used for the syntheses of 29–31.

reactant | (S)-4-amino-2-hydroxybutanoic acid | NCC[C@@H](C(=O)O)O | C4H9NO3
reactant | benzyl chloroformate | 1.2 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 2.1 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-hydroxysuccinimide | 0.318 mmol, 38 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 0.300 mmol, 63 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | N-[(S)-4-(Benzyloxycarbonylamino)-2-hydroxybutanoyloxy]succinimide | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C(=O)ON1C(CCC1=O)=O)O | C16H18N2O7
